US09315501B2
Step 1. 5-Bromo-6-(2,4-difluorophenoxy)-1,3-dimethyl-1,3-dihydro-2H-benzimidazol-2-one
A solution of 5-bromo-6-(2,4-difluorophenoxy)-1,3-dihydro-2H-benzimidazol-2-one (0.106 g, 0.311 mmol) in N,N-dimethylformamide (2.2 mL) was treated with sodium hydride (0.0273 g, 0.684 mmol) and stirred at 20° C. for 30 min. The reaction mixture was treated with methyl iodide (0.0426 mL, 0.684 mmol) and stirred 20° C. for 30 min. The reaction mixture was diluted with water which resulted in the formation of a precipitate. The solid was filtered and washed with water to give the desired product (108 mg, 94%) which was used without further purification. LCMS calculated for C15H12BrF2N2O2 (M+H)+: m/z=369.0, 371.0. found: 368.9, 371.0.

reactant | 5-bromo-6-(2,4-difluorophenoxy)-1,3-dihydro-2H-benzimidazol-2-one | 0.311 mmol, 0.106 g | BrC1=CC2=C(NC(N2)=O)C=C1OC1=C(C=C(C=C1)F)F | C13H7BrF2N2O2
reactant | sodium hydride | 0.684 mmol, 0.0273 g | [H-].[Na+]
reactant | methyl iodide | 0.684 mmol, 0.0426 mL | CI | CH3I
reactant | N,N-dimethylformamide | 2.2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Bromo-6-(2,4-difluorophenoxy)-1,3-dimethyl-1,3-dihydro-2H-benzimidazol-2-one | 108 mg, 94% | BrC1=CC2=C(N(C(N2C)=O)C)C=C1OC1=C(C=C(C=C1)F)F | C15H11BrF2N2O2
